US07109219B2
Tetrahydrofuran (20 ml) and triethylamine (1.73 ml, 12.4 mmol) were added to N1-(1-ethylpropyl)-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide (1.45 g, 4.29 mmol); phenyl chloroformate (1.15 ml, 9.1 mmol) was added thereto at 0° C. while stirring; and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was concentrated and subjected to silica gel column chromatography to yield a mixture (1.8 g) of phenyl N-(4-(1-((1-ethylpropyl)amino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate and phenyl N-(4-(1-((1-ethylpropyl)amino)carbonyl-1H-5-indolyl)-oxy-2-pyridyl)-N-(phenoxycarbonyl)carbamate. A portion of 0.6 g of the mixture was dissolved in N,N-dimethylformamide (5 ml); 4-tetrahydro-1H-1-pyrrolylpiperidine (0.7 g, 4.7 mmol) and stirred for 2 hours; the reaction mixture was partitioned between ethyl acetate and water; the organic layer was concentrated; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate:methanol=10:1) to yield as white crystals (202 mg, 0.391 mmol).

reactant | triethylamine | 12.4 mmol, 1.73 ml | C(C)N(CC)CC | C6H15N
reactant | N1-(1-ethylpropyl)-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 4.29 mmol, 1.45 g | C(C)C(CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C19H22N4O2
reactant | phenyl chloroformate | 9.1 mmol, 1.15 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | Tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | phenyl N-(4-(1-((1-ethylpropyl)amino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate | 1.8 g | C(C)C(CC)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(OC1=CC=CC=C1)=O | C26H26N4O4
